US07439268B2
Florfenicol butyrate:
225 g of florfenicol was suspended in 330 ml of butyric anhydride in one liter round bottom flask equipped with a over head stirrer and a drying tube. To this suspension was added one ml of perchloric acid, while stirring vigorously, with a pipette. A clear solution was obtained in a few minutes. Stirring was continued for another 3 hours during which the florfenicol butyrate pro-drug was crystallized. The solid product was filtered using a Buckner funnel under vacuum, and washed thoroughly with hexane. The product was finally crystallized in ethanol and the crystallized product was washed with hexane and dried to obtain around 230 g of solid florfenicol butyrate.

reactant | florfenicol | 225 g | CS(=O)(=O)C=1C=CC(=CC1)[C@H]([C@@H](CF)NC(=O)C(Cl)Cl)O | C12H14Cl2FNO4S
reactant | perchloric acid | one ml | Cl(=O)(=O)(=O)O | ClHO4
solvent | butyric anhydride | 330 ml | C(CCC)(=O)OC(CCC)=O | C8H14O3
product | Florfenicol butyrate | around 230 g | CS(=O)(=O)C=1C=CC(=CC1)[C@H]([C@@H](CF)NC(=O)C(Cl)Cl)O.C(CCC)(=O)[O-] | InChI=1S/C12H14Cl2FNO4S.C4H8O2/c1-21(19,20)8-4-2-7(3-5-8)10(17)9(6-15)16-12(18)11(13)14;1-2-3-4(5)6/h2-5,9-11,17H,6H2,1H3,(H,16,18);2-3H2,1H3,(H,5,6)/p-1/t9-,10-;/m1./s1
